US05359091
(E)-3-Chloro-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methylbenzo[b]thiophene-7methanamine hydrochloride
To a solution of 0.86 g (3.0 mmol) of (E)-3-chloro-N-(3-chloro-2-propenyl)-N-methylbenzo[b]thiophene-7-methanamine in 5 ml of tetrahydrofuran were added 42.6 mg (0.16 mmol) of triphenylphosphine, 20.1 mg (0.11 mmol) of palladium chloride, 34.0 mg (0.18 mmol) of copper (I) iodide, 0.6 ml (6.1 mmol) of n-butylamine and 0.5 ml (4.1 mmol) of tert-butylacetylene. The mixture was stirred for 24 hours at room temperature, poured into 40 ml of ethyl acetate. The organic layer was separated, washed with 20 ml×2 of water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-heptane→n-heptane/ethyl acetate=5/1). The desired fractions were put together and concentrated under reduced pressure. The residue was treated with 3 ml of 23% hydrogen chloride methanol solution and the solution was concentrated. The resulting crystals were suspended in isopropylalcohol, filtered, washed with isopropylalcohol and dried to obtain 0.77 g (yield: 70%) of the above identified compound as white crystalline powder.

reactant | (E)-3-chloro-N-(3-chloro-2-propenyl)-N-methylbenzo[b]thiophene-7-methanamine | 3.0 mmol, 0.86 g | ClC=1C2=C(SC1)C(=CC=C2)CN(C)C\C=C\Cl | C13H13Cl2NS
reactant | triphenylphosphine | 0.16 mmol, 42.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 6.1 mmol, 0.6 ml | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 4.1 mmol, 0.5 ml | C(C)(C)(C)C#C | C6H10
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium chloride | 0.11 mmol, 20.1 mg | [Pd](Cl)Cl
catalyst | copper (I) iodide | 0.18 mmol, 34.0 mg | [Cu]I
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-Chloro-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methylbenzo[b]thiophene-7methanamine hydrochloride | yield: 70% | Cl.ClC=1C2=C(SC1)C(=CC=C2)CN(C)C\C=C\C#CC(C)(C)C | InChI=1S/C19H22ClNS.ClH/c1-19(2,3)11-6-5-7-12-21(4)13-15-9-8-10-16-17(20)14-22-18(15)16;/h5,7-10,14H,12-13H2,1-4H3;1H/b7-5+;
